US08183271B2
Diallyl 2-(4-methoxycarbonylbenzyl)malonate
14.42 g (0.36 mol) of sodium hydride are added in portions to a solution of 56.7 g (0.3 mol) of diallyl malonate in 375 ml of dioxane and 75 ml of THF at 0° C. (caution: evolution of hydrogen). After warming to room temperature, the mixture is stirred at 40° C. for 1 hour. Subsequently, 111.88 g (0.6 mol) of methyl 4-chloromethylbenzoate, dissolved in 375 ml of dioxane, are slowly added dropwise at 40° C., and the reaction solution is stirred at 110° C. overnight. After cooling to room temperature, the reaction mixture is added to 1200 ml of water. Care must be taken during this that the pH is <7 (where appropriate, a few ml of 1 M hydrochloric acid are metered in to about pH 2). The mixture is then extracted three times with ethyl acetate, and the combined organic phases are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness in vacuo. The resulting crude product is purified by flash chromatography (mobile phase: petroleum ether/ethyl acetate 10:1; 3 kg of silica gel). 85.4 g (0.26 mol, 85% of theory) of a colorless solid are obtained.

reactant | sodium hydride | 0.36 mol, 14.42 g | [H-].[Na+]
reactant | diallyl malonate | 0.3 mol, 56.7 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | hydrogen | [H][H] | H2
reactant | methyl 4-chloromethylbenzoate | 0.6 mol, 111.88 g | ClCC1=CC=C(C(=O)OC)C=C1 | C9H9ClO2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dioxane | 375 ml | O1CCOCC1 | C4H8O2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | dioxane | 375 ml | O1CCOCC1 | C4H8O2
solvent | water | 1200 ml | O | H2O
product | Diallyl 2-(4-methoxycarbonylbenzyl)malonate | COC(=O)C1=CC=C(CC(C(=O)OCC=C)C(=O)OCC=C)C=C1 | C18H20O6
